US04011334
A mixture of 20 g (0.2 mole) of 3-thiolen-2-one[R. T. Hawkins, J. Heterocyclic Chemistry 11, 291-4 (1974)], 61.1 g (0.2 mole) of 1-bromohexadecane, and 9.6 g (0.2 mole) of sodium hydride (50% in oil) in dry benzene is refluxed with stirring for 24 hours after which the solvent is removed and the product is distilled to give 2-hexadecyloxythiophene.

reactant | 3-thiolen-2-one | 0.2 mole, 20 g | S1C(C=CC1)=O | C4H4OS
reactant | 1-bromohexadecane | 0.2 mole, 61.1 g | BrCCCCCCCCCCCCCCCC | C16H33Br
reactant | sodium hydride | 0.2 mole, 9.6 g | [H-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-hexadecyloxythiophene | C(CCCCCCCCCCCCCCC)OC=1SC=CC1 | C20H36OS
